### PR TITLE
[Merged by Bors] - feat(Algebra): localization preserves unique factorization

### PR DESCRIPTION
**Pull request by alreadydone**
---

- [x] depends on: #33851

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GroupWithZero/Associated.lean [hunk 1]
```diff
@@ -730,12 +730,37 @@ end Associates
 
 section CommMonoidWithZero
 
-theorem dvdNotUnit_of_dvdNotUnit_associated [CommMonoidWithZero M] [Nontrivial M] {p q r : M}
+variable [CommMonoidWithZero M] {p q r : M}
+
+theorem dvdNotUnit_of_dvdNotUnit_associated
```
Comment (Vierkantor) [inline Mathlib/Algebra/GroupWithZero/Associated.lean:735]: Nice generalization!

File: Mathlib/GroupTheory/MonoidLocalization/Basic.lean [hunk 2]
```diff
@@ -1487,13 +1490,29 @@ variable {M N : Type*} [CommMonoid M] {S : Submonoid M} [CommMonoid N]
...
 
+/-- Any localization of a cancellative commutative monoid is cancellative. -/
+@[to_additive
+/-- Any localization of a cancellative commutative additive monoid is cancellative. -/]
+abbrev cancelCommMonoid {M N} [CancelCommMonoid M] {S : Submonoid M}
+    [CommMonoid N] (f : S.LocalizationMap N) : CancelCommMonoid N where
+  mul_left_cancel := f.isCancelMul.mul_left_cancel
+
 @[to_additive] instance [IsCancelMul M] : IsCancelMul (Localization S) :=
   (Localization.monoidOf S).isCancelMul
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/MonoidLocalization/Basic.lean]: Let's make sure the instances remain next to their general results:

```suggestion
@[to_additive] instance [IsCancelMul M] : IsCancelMul (Localization S) :=
  (Localization.monoidOf S).isCancelMul

/-- Any localization of a cancellative commutative monoid is cancellative. -/
@[to_additive
/-- Any localization of a cancellative commutative additive monoid is cancellative. -/]
abbrev cancelCommMonoid {M N} [CancelCommMonoid M] {S : Submonoid M}
    [CommMonoid N] (f : S.LocalizationMap N) : CancelCommMonoid N where
  mul_left_cancel := f.isCancelMul.mul_left_cancel

@[to_additive] instance [CancelCommMonoid M] : CancelCommMonoid (Localization S) :=
  (Localization.monoidOf S).cancelCommMonoid
```

File: Mathlib/RingTheory/Localization/Defs.lean [hunk 3]
```diff
@@ -11,6 +11,7 @@ public import Mathlib.Algebra.Ring.NonZeroDivisors
 public import Mathlib.Data.Fintype.Prod
 public import Mathlib.GroupTheory.MonoidLocalization.MonoidWithZero
 public import Mathlib.RingTheory.OreLocalization.Ring
+public import Mathlib.RingTheory.UniqueFactorizationDomain.Defs
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Localization/Defs.lean]: This new import is not needed.
```suggestion
```

File: Mathlib/RingTheory/Localization/Defs.lean [hunk 4]
```diff
@@ -192,14 +193,8 @@ theorem of_le_of_exists_dvd (N : Submonoid R) (h₁ : M ≤ N) (h₂ : ∀ n ∈
...
-theorem algebraMap_isUnit_iff {x : R} : IsUnit (algebraMap R S x) ↔ ∃ m ∈ M, x ∣ m := by
-  refine ⟨fun h ↦ ?_, fun ⟨m, hm, dvd⟩ ↦ isUnit_of_dvd_unit (map_dvd _ dvd) (map_units S ⟨m, hm⟩)⟩
-  have ⟨s, hxs⟩ := isUnit_iff_dvd_one.mp h
-  have ⟨⟨r, m⟩, hrm⟩ := surj M s
-  apply_fun (algebraMap R S x * ·) at hrm
-  rw [← mul_assoc, ← hxs, one_mul, ← map_mul] at hrm
-  have ⟨m', eq⟩ := (eq_iff_exists M S).mp hrm
-  exact ⟨m' * m, mul_mem m'.2 m.2, _, mul_left_comm _ x _ ▸ eq⟩
+theorem algebraMap_isUnit_iff {x : R} : IsUnit (algebraMap R S x) ↔ ∃ m ∈ M, x ∣ m :=
+  (toLocalizationMap M S).map_isUnit_iff
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Localization/Defs.lean:190]: Nice golf!

Optional: we might even want to move this theorem to `RingTheory/Localization/Basic.lean`, since it does not appear used anywhere in this file, nor to be very popular (I count 2 uses total).

File: Mathlib/GroupTheory/MonoidLocalization/UniqueFactorization.lean [hunk 5]
```diff
@@ -0,0 +1,74 @@
...
+  | unit u hu => exact (hm.not_isUnit (hu.map f)).elim
+  | mul a i ha0 hi ha =>
+    rw [map_mul, irreducible_mul_iff] at hm
+    obtain hia | hai := hm
+    · exact ⟨a, i, hia.2, hi, mul_comm ..⟩
+    · obtain ⟨u, m', hu, hm', rfl⟩ := ha hai.1
+      exact ⟨u * i, m', by simpa using hu.mul hai.2, hm', by ac_rfl⟩
+
+open UniqueFactorizationMonoid in
+theorem uniquFactorizationMonoid (f : S.LocalizationMap N)
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/MonoidLocalization/UniqueFactorization.lean]:
```suggestion
theorem uniqueFactorizationMonoid (f : S.LocalizationMap N)
```

File: Mathlib/GroupTheory/MonoidLocalization/UniqueFactorization.lean [hunk 6]
```diff
@@ -0,0 +1,74 @@
...
+        (Multiset.prod_filter_mul_prod_filter_not _).trans (f.toMonoidHom.map_multiset_prod _).symm)
+        ((factors_prod (mt (by simp [·]) hn)).map f)
+
+end Submonoid.LocalizationMap
+
+variable (N) in
+theorem IsLocalization.uniqueFactorizationMonoid [CommSemiring M] [CommSemiring N] [Algebra M N]
+    (S : Submonoid M) [IsLocalization S N] [UniqueFactorizationMonoid M] :
+    UniqueFactorizationMonoid N :=
+  (toLocalizationMap S N).uniquFactorizationMonoid
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/MonoidLocalization/UniqueFactorization.lean]:
```suggestion
  (toLocalizationMap S N).uniquFactorizationMonoid

instance : [UniqueFactorizationMonoid M] :
    UniqueFactorizationMonoid (Localization S) :=
  (Localization.monoidOf S).uniqueFactorizationMonoid
```

File: Mathlib/GroupTheory/MonoidLocalization/Basic.lean [hunk 7]
```diff
@@ -6,6 +6,9 @@ Authors: Amelia Livingston
 module
 
 public import Mathlib.Algebra.BigOperators.Group.Finset.Basic
+public import Mathlib.Algebra.Divisibility.Hom
+public import Mathlib.Algebra.Divisibility.Units
+public import Mathlib.Algebra.Group.Irreducible.Defs
```
Comment (Vierkantor) [inline Mathlib/GroupTheory/MonoidLocalization/Basic.lean]: I'm not too thrilled with the extra imports here, especially since the file is already so big. What do you think about making a `MonoidLocalization/Divisibility.lean` file that contains results on `Dvd`, `IsUnit`, `Irreducible`, etc.?

**Comment by riccardobrasca** [comment]
@alreadydone are you still interested in this?

**Comment by alreadydone** [comment]
Sorry to have missed the review notification, and thanks for the reminder. Hope to get back to it in a week ...

File: Mathlib/RingTheory/Localization/Defs.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Localization/Defs.lean:190]: Not really a golf, just moved earlier (as `(LocalizationMap.)map_isUnit_iff`) :)
`Basic.lean` imports 841 files compared to 625 imported by `Defs.lean`, so I'm not sure moving this is a good idea ...

**Comment by riccardobrasca** [comment]
Oh gosh, I've merged #36739 forgetting this PR and now we already have [UniqueFactorizationMonoid.of_isLocalization](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/UniqueFactorizationDomain/Localization.html#UniqueFactorizationMonoid.of_isLocalization).

The result here is more general since it is about monoids, right? Can you remove the redundant results?

cc @mbkybky

File: Mathlib/GroupTheory/MonoidLocalization/Basic.lean [hunk 8]
```diff
@@ -879,12 +879,20 @@ variable {M N : Type*} [CommMonoid M] {S : Submonoid M} [CommMonoid N]
   have ⟨ms, eq⟩ := f.surj n
   exact (eq ▸ f.map_isRegular (isCancelMul_iff_forall_isRegular.mp ‹_› ms.1)).2.of_mul
 
-@[to_additive] instance [IsCancelMul M] : IsCancelMul (Localization S) :=
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/MonoidLocalization/Basic.lean:882]: I think this instance disappeared, can you check?

File: Mathlib/RingTheory/Localization/Defs.lean [hunk 9]
```diff
@@ -9,6 +9,7 @@ public import Mathlib.Algebra.BigOperators.Group.Finset.Defs
 public import Mathlib.Algebra.Regular.Basic
 public import Mathlib.Algebra.Ring.NonZeroDivisors
 public import Mathlib.Data.Fintype.Prod
+public import Mathlib.GroupTheory.MonoidLocalization.Divisibility
 public import Mathlib.GroupTheory.MonoidLocalization.MonoidWithZero
 public import Mathlib.RingTheory.OreLocalization.Ring
 public import Mathlib.Tactic.ApplyFun
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Localization/Defs.lean]:
```suggestion
```

File: Mathlib/GroupTheory/MonoidLocalization/UniqueFactorization.lean [hunk 10]
```diff
@@ -0,0 +1,81 @@
+/-
+Copyright (c) 2026 Junyan Xu. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Junyan Xu
+-/
+module
+
+public import Mathlib.Algebra.Ring.Regular
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/MonoidLocalization/UniqueFactorization.lean]:
```suggestion
```

File: Mathlib/GroupTheory/MonoidLocalization/UniqueFactorization.lean [hunk 11]
```diff
@@ -0,0 +1,81 @@
...
+  rw [Submonoid.mul_def, map_mul, mul_mul_mul_comm, eq₁, eq₂, ← map_mul, f.map_dvd_map] at this
+  have ⟨s, hs, dvd⟩ := this
+  rw [← mul_assoc] at dvd
+  obtain dvd | dvd := prime.dvd_or_dvd dvd
+  all_goals have := map_dvd f dvd
+  · rw [map_mul, (f.map_units ⟨s, hs⟩).dvd_mul_left, ← eq₁, (f.map_units s₁).dvd_mul_right] at this
+    exact .inl this
+  · rw [← eq₂, (f.map_units s₂).dvd_mul_right] at this; exact .inr this
+
+theorem irreducible_of_map_wfDvdMonoid [WfDvdMonoid M] (f : S.LocalizationMap N) {m : M}
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/MonoidLocalization/UniqueFactorization.lean]: Maybe mention `IsUnit` in the name?

File: Mathlib/GroupTheory/MonoidLocalization/Basic.lean (hunk 8 above)
Comment (alreadydone) [reply Mathlib/GroupTheory/MonoidLocalization/Basic.lean:882]: Somehow it got accidentally removed during the last merge ...

File: Mathlib/GroupTheory/MonoidLocalization/UniqueFactorization.lean [hunk 12]
```diff
@@ -0,0 +1,81 @@
...
+    (hm : Irreducible (f m)) : ∃ u m' : M, IsUnit (f u) ∧ Irreducible m' ∧ m = u * m' := by
```
Comment (alreadydone) [inline Mathlib/GroupTheory/MonoidLocalization/UniqueFactorization.lean]:
```suggestion
theorem eq_isUnit_map_mul_irreducible_of_irreducible_map [WfDvdMonoid M] (f : S.LocalizationMap N) 
    {m : M} (hm : Irreducible (f m)) : ∃ u m' : M, IsUnit (f u) ∧ Irreducible m' ∧ m = u * m' := by
```

File: Mathlib/GroupTheory/MonoidLocalization/Basic.lean [hunk 13]
```diff
@@ -879,12 +879,20 @@ variable {M N : Type*} [CommMonoid M] {S : Submonoid M} [CommMonoid N]
   have ⟨ms, eq⟩ := f.surj n
   exact (eq ▸ f.map_isRegular (isCancelMul_iff_forall_isRegular.mp ‹_› ms.1)).2.of_mul
```
Comment (alreadydone) [inline Mathlib/GroupTheory/MonoidLocalization/Basic.lean:881]:
```suggestion

@[to_additive] instance [IsCancelMul M] : IsCancelMul (Localization S) :=
  (Localization.monoidOf S).isCancelMul

```

File: Mathlib/RingTheory/UniqueFactorizationDomain/Localization.lean [hunk 14]
```diff
@@ -1,50 +1,5 @@
...
-    intro h
-    exact Ideal.IsPrime.ne_top' (top_unique (h.symm.trans_le (by simpa [Ideal.map_span] using hxp)))
-  · simp [map_ne_zero_iff _ (IsLocalization.injective S hM), hpx.ne_zero]
-
-/-- The localization of a UFD is still a UFD. -/
-instance localization (M : Submonoid R) : UniqueFactorizationMonoid (Localization M) :=
-  of_isLocalization M (Localization M)
-
-end UniqueFactorizationMonoid
+deprecated_module (since := "2026-07-12")
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/UniqueFactorizationDomain/Localization.lean:5]: This should be done in another PR.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/UniqueFactorizationDomain/Localization.lean (hunk 14 above)
Comment (alreadydone) [reply Mathlib/RingTheory/UniqueFactorizationDomain/Localization.lean:5]: Is this a general rule stated somewhere?
So I should just discard changes to this file?

Comment (riccardobrasca) [reply Mathlib/RingTheory/UniqueFactorizationDomain/Localization.lean:5]: It was surely the recommend way at least at some point, and looking [here](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/deprecated.20module/with/596812346) it seems it is still the case.

Comment (riccardobrasca) [reply Mathlib/RingTheory/UniqueFactorizationDomain/Localization.lean:5]: We even have `scripts/create_deprecated_modules.lean` for doing it automatically.

Comment (alreadydone) [reply Mathlib/RingTheory/UniqueFactorizationDomain/Localization.lean:5]: I didn't read all discussions but it seems the motivation for a separate PR is for Git to recognize file renaming. If a file with the original name still exists, then Git won't recognize it as being renamed and will show huge diffs to two unrelated files, so the original file must stop existing in the renaming PR and only be added back later in another PR with the deprecated_module message.
If this is indeed the motivation then I think it doesn't apply here, since we're not renaming the file but replacing it with another file with more general results and different proofs. Even if you still want me to add the deprecated_module message in another PR, the original code must be removed, otherwise two decls with the name `UniqueFactorizationMonoid.of_isLocalization` are imported into Mathlib.lean, which makes CI unhappy.

Comment (riccardobrasca) [reply Mathlib/RingTheory/UniqueFactorizationDomain/Localization.lean:5]: OK if this is an edge case it's not very important.

Comment (alreadydone) [reply Mathlib/RingTheory/UniqueFactorizationDomain/Localization.lean:5]: So let me restore the `deprecated_module` message and merge ...?

Comment (riccardobrasca) [reply Mathlib/RingTheory/UniqueFactorizationDomain/Localization.lean:5]: yes!

**Comment by alreadydone** [comment]
Thanks 🎉 
bors r+
